US07951805B2
SYNTHESIS OF 6-(4-AMINOPIPERIDIN-1-YL)PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE
To 6-chloropyridazine-3-carboxylic acid (3-methylbutyl)amide (0.140 g, 0.610 mmol) in DMF (7 mL) was added piperidin-4-ylcarbamic acid tert-butyl ester (0.146 g, 0.730 mmol), followed by the addition of 1,8-diazabicyclo[5,4,0]undec-7-ene (0.280 mL, 1.84 mmol) and tetra-n-butylammonium iodide (6 mg). The reaction mixture was stirred at 80° C. for 16 hours. The solvent was removed in vacuo. The residue was dissolved in ethyl acetate, then washed with citric acid, sodium bicarbonate and brine solution. The organic layer was separated, and dried over anhydrous Na2SO4, and evaporated. The residue was purified by column chromatography and then treated with trifluoroacetic acid. The title compound was obtained as a white powder in 50% yield (0.090 g). 1H NMR (300 MHz, DMSO-d6) δ 8.75-8.77 (m, 1H), 7.79 (d, J=9.6 Hz, 1H), 7.34 (d, J=9.6 Hz, 1H), 4.29-4.35 (m, 2H), 3.29-3.22 (m, 1H), 3.06-3.12 (m, 1H), 2.85-2.87 (m, 1H), 2.50 (m, 1H), 1.77-1.80 (m, 2H), 1.56-1.64 (m, 4H), 1.40-1.44 (m, 2H), 1.17-1.25 (m, 1H), 0.90 (d, J=6.6 Hz, 6H).

reactant | 6-chloropyridazine-3-carboxylic acid (3-methylbutyl)amide | 0.610 mmol, 0.140 g | CC(CCNC(=O)C=1N=NC(=CC1)Cl)C | C10H14ClN3O
reactant | piperidin-4-ylcarbamic acid tert-butyl ester | 0.730 mmol, 0.146 g | C(C)(C)(C)OC(NC1CCNCC1)=O | C10H20N2O2
reactant | 1,8-diazabicyclo[5,4,0]undec-7-ene | 1.84 mmol, 0.280 mL | N12CCCCCC2=NCCC1 | C9H16N2
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
catalyst | tetra-n-butylammonium iodide | 6 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 6-(4-AMINOPIPERIDIN-1-YL)PYRIDAZINE-3-CARBOXYLIC ACID (3-METHYLBUTYL)AMIDE | 50% yield | CC(CCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)N)C | C15H25N5O
